US04243666
4-Amino-2-chloro-6,7-dimethoxyquinazoline (1.2 g), 4-(N-n-butylcarbamoyl)piperidine (1.01 g) and triethylamine (2.52 g) in n-butanol (105 ml) were heated under reflux for 24 hours. The mixture was then cooled, the solvent evaporated in vacuo, and the resultant solid shaken with chloroform and water. The solid product was collected by filtration, and recrystallised twice from ethanol to give 4-amino-6,7-dimethoxy-2-[4-(N-n-butylcarbamoyl)piperidino]quinazoline hydrochloride (0.57 g), m.p. 263°-264°.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 1.2 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 4-(N-n-butylcarbamoyl)piperidine | 1.01 g | C(CCC)NC(=O)C1CCNCC1 | C10H20N2O
reactant | triethylamine | 2.52 g | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 105 ml | C(CCC)O | C4H10O
product | 4-amino-6,7-dimethoxy-2-[4-(N-n-butylcarbamoyl)piperidino]quinazoline hydrochloride | 0.57 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)C(NCCCC)=O | InChI=1S/C20H29N5O3.ClH/c1-4-5-8-22-19(26)13-6-9-25(10-7-13)20-23-15-12-17(28-3)16(27-2)11-14(15)18(21)24-20;/h11-13H,4-10H2,1-3H3,(H,22,26)(H2,21,23,24);1H
